US05112998
In 10 ml of acetone was dissolved 110 mg of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α-(tert-butyldimethylsilyl)oxy-3β-(N,N-dimethylcarbamoyl)oxypregna-5,7diene, followed by addition of 10 mg of p-toluenesulfonic acid. The mixture was refluxed in an atmosphere of argon gas for 4 hours. The reaction mixture was then worked up in the same manner as Example 156 to give 63 mg of 1α-(tert-butyldimethylsilyl)oxy-3β-(N,N-dimethylcarbamoyl)oxypregna-5,7-diene-20-carbaldehyde showing the following physical properties.

reactant | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α-(tert-butyldimethylsilyl)oxy-3β-(N,N-dimethylcarbamoyl)oxypregna-5,7diene | 110 mg | CC1(COC(OC1)C(C)[C@H]1CC[C@H]2C3=CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O[Si](C)(C)C(C)(C)C)OC(N(C)C)=O)C | C36H61NO5Si
reactant | p-toluenesulfonic acid | 10 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 1α-(tert-butyldimethylsilyl)oxy-3β-(N,N-dimethylcarbamoyl)oxypregna-5,7-diene-20-carbaldehyde | 63 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H](C(C)C=O)[C@]4(CC[C@@H]3[C@@]12C)C)OC(N(C)C)=O | C31H51NO4Si
